US03965015
Preparation of 1-octadecyl-3-(aminopropyl) urea
19 grams (.25 mole) of 1,3 diaminopropane was reacted with 20 gms octadecyl isocyanate as in Example 2. Yield: 22.2 gms., melting point 116°-140°-150°C.

reactant | 1,3 diaminopropane | .25 mole, 19 grams | NCCCN | C3H10N2
reactant | octadecyl isocyanate | 20 gms | C(CCCCCCCCCCCCCCCCC)N=C=O | C19H37NO
product | 1-octadecyl-3-(aminopropyl) urea | C(CCCCCCCCCCCCCCCCC)NC(=O)NCCCN | C22H47N3O
